US05700819
To a solution of ethyl 3-[2-(4,5,7-trifluorobenzothiazol-2-yl)ethyl]benzoate (133 mg, 0.36 mmol) in a mixture of water (5 ml) and dioxane (5 ml) was added dropwise aqueous 2N sodium hydroxide (2 ml) and the mixture was stirred for 7 hours at ambient temperature. The reaction mixture was diluted with water and then washed with ether. The aqueous layer was acidified with 10% hydrochloric acid and extracted with ethyl acetate. After drying, evaporation of the solvent left crude crystals, which were recrystallized from ether to give 3-[2-(4,5,7-trifluorobenzothiazol-2-yl)ethyl]benzoic acid (82 mg, 68%) as colorless crystals.

reactant | ethyl 3-[2-(4,5,7-trifluorobenzothiazol-2-yl)ethyl]benzoate | 0.36 mmol, 133 mg | FC1=C(C=C(C2=C1N=C(S2)CCC=2C=C(C(=O)OCC)C=CC2)F)F | C18H14F3NO2S
reactant | sodium hydroxide | 2N, 2 ml | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 3-[2-(4,5,7-trifluorobenzothiazol-2-yl)ethyl]benzoic acid | 82 mg, 68% | FC1=C(C=C(C2=C1N=C(S2)CCC=2C=C(C(=O)O)C=CC2)F)F | C16H10F3NO2S
